US04751295
C. 2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-propargyloxyiminoacetic acid (III-4)(3)
A solution of 410 mg (1.26 mmoles) of 2-(5-t-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2-propargyloxyiminoacetic acid in 5 ml of trifluoroacetic acid was allowed to stand for 1 hour at 25° C. Evaporation followed by trituration of the residue with 25 ml of isopropyl ether gave 204 mg (72%) of the title compound. Mp. 156°-158° C. (dec.).

reactant | 2-(5-t-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2-propargyloxyiminoacetic acid | 1.26 mmoles, 410 mg | C(C)(C)(C)OC(=O)NC1=NC(=NS1)C(C(=O)O)=NOCC#C | C12H14N4O5S
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-propargyloxyiminoacetic acid | 204 mg, 72% | NC1=NC(=NS1)C(C(=O)O)=NOCC#C | C7H6N4O3S
